US06077953
Twenty mililiters (20 ml) of a mixture of sulfuric acid and water (v/v=1/1), and 7.3 g of 2-(4-chloro-3-isopropoxycarbonylphenyl)-6-ethoxycarbonyl-4-methyl-5-trifluoromethylpyridazin-3-one (the present compound 1-109) were mixed and heated for 7 hours on a 150° C. oil bath. The reaction solution was cooled to room temperature, poured into 100 ml of water. The precipitated crystals were filtered off, washed with 50 ml of water 3 times, dissolved with 200 ml of ethyl acetate and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to afford 4.88 g of 2-(4-chloro-5-carboxyphenyl)-4-methyl-5-trifluoromethylpyridazin-3-one (yield:89%).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-chloro-3-isopropoxycarbonylphenyl)-6-ethoxycarbonyl-4-methyl-5-trifluoromethylpyridazin-3-one | 7.3 g | ClC1=C(C=C(C=C1)N1N=C(C(=C(C1=O)C)C(F)(F)F)C(=O)OCC)C(=O)OC(C)C | C19H18ClF3N2O5
solvent | water | 100 ml | O | H2O
product | 2-(4-chloro-5-carboxyphenyl)-4-methyl-5-trifluoromethylpyridazin-3-one | 4.88 g, yield:89% | ClC1=CC=C(C=C1C(=O)O)N1N=CC(=C(C1=O)C)C(F)(F)F | C13H8ClF3N2O3
